US09403810B2
Step 9: [4,4,5,5-Tetramethyl-2-(2-oxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane]
[2-Oxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate] (270 mg, 0.943 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (251 mg, 0.990 mmol) in dioxane (5 mL) were treated with potassium acetate (185 mg, 1.886 mmol) and the mixture was degassed thoroughly refilling with nitrogen. PdCl2(dppf).CH2Cl2 adduct (23.11 mg, 0.028 mmol) was added and the mixture was heated to 80° C. for 16 hours. The crude reaction mixture was adsorbed onto silica and purification by chromatography eluting with 0-15% EtOAc in iso-hexane afforded the title compound;

reactant | 2-Oxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC2(CCOC2)CC1)(F)F | C10H13F3O4S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.990 mmol, 251 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.886 mmol, 185 mg | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.028 mmol, 23.11 mg | C(Cl)Cl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4,4,5,5-Tetramethyl-2-(2-oxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C1=CCC2(CCOC2)CC1)C | C15H25BO3
